US05854227
Cleavage of benzhydryl 7-azido-7-{[5-hydroxy-5,5-bis(dimethoxyphosphono)-1-pentylamino]-carbonyl}-3-acetoxymethyl-3-cephem-4-carboxylate, prepared as described in Example 30, with trifluoroacetic acid gives 7-azido-7-{[5-hydroxy-5,5-bis(dimethoxyphosphono)-1-pentylamino]-carbonyl}-3-acetoxymethyl-3-cephem-4-carboxylic acid.

reactant | benzhydryl 7-azido-7-{[5-hydroxy-5,5-bis(dimethoxyphosphono)-1-pentylamino]-carbonyl}-3-acetoxymethyl-3-cephem-4-carboxylate | N(=[N+]=[N-])C1([C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C(=O)NCCCCC(P(=O)(OOC)OOC)(P(=O)(OOC)OOC)O | C33H41N5O17P2S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 7-azido-7-{[5-hydroxy-5,5-bis(dimethoxyphosphono)-1-pentylamino]-carbonyl}-3-acetoxymethyl-3-cephem-4-carboxylic acid | N(=[N+]=[N-])C1([C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)C(=O)NCCCCC(P(=O)(OOC)OOC)(P(=O)(OOC)OOC)O | C20H31N5O17P2S
